US08608899B2
Reaction Product of N,N-dimethylcarbamoyl chloride/Jeffamine® D-230 (“C-2”)
15.0 g (139.5 mmol) of N,N-dimethylcarbamoyl chloride and 80 mL dioxane were added to a 250 mL two-necked flask with a reflux condenser. Then 13.66 g (135 mmol) triethylamine and 14.88 g (approx. 63 mmol) Jeffamine® D-230 (Huntsman) were added. After the slight exothermic evolution of heat subsided, the mixture was stirred for 3 h at 80° C. and for 1 h at 100° C., where a milky yellowish suspension slowly formed. The suspension obtained in this way was filtered twice through a fluted filter. The solvent was driven off on the rotary evaporator at 60° C. Then the product was purified with stirring for 2 h at 100° C. and 0.3 mbar. Approximately 17.0 g of an orange-red, viscous liquid was obtained, with a calculated “urea equivalent weight” of approx. 191 g/eq.

reactant | N,N-dimethylcarbamoyl chloride | 139.5 mmol, 15.0 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 135 mmol, 13.66 g | C(C)N(CC)CC | C6H15N
reactant | Jeffamine | approx. 63 mmol, 14.88 g | CC(COCC(C)OCC(C)OCC(C)N)N | C12H28N2O3
reactant | urea | NC(=O)N | CH4N2O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | N,N-dimethylcarbamoyl chloride Jeffamine | CN(C(=O)Cl)C.CC(COCC(C)OCC(C)OCC(C)N)N | InChI=1S/C12H28N2O3.C3H6ClNO/c1-9(13)5-15-7-11(3)17-8-12(4)16-6-10(2)14;1-5(2)3(4)6/h9-12H,5-8,13-14H2,1-4H3;1-2H3
